US07199105B2
To a mixture of 4-(4-Methoxy-butyl)-pyridine-2-carboxylic acid methyl ester ((107 mg, 0.48 mmol, 1 equiv) in THF (1.5 mL) and water (0.5 mL) was added lithium hydroxide monohydrate (30.2 mg, 0.72 mmol, 1.5 equiv). The mixture was stirred at rt for 4 h and diluted with methanol (20 mL). Then H+ resin (0.4 g) was added and the mixture was shaken for 10 minutes. The resin was washed with methanol (1×), 1:1 acetonitrile/water (1×), and acetonitrile (1×). The product was eluted with 5% TEA in methanol (4×) and acetonitrile (1×). The combined organic solvents were evaporated and co-evaporated with toluene to give 4-(4-Methoxy-butyl)-pyridine-2-carboxylic acid (63.4 mg, 63%): 1H NMR (300 MHz, CD3OD) δ 8.47–8.43 (m, 1), 7.98–7.94 (m, 1), 7.43–7.37 (m, 1), 3.41 (t, J=6.3, 2), 3.30 (s, 3), 2.75 (t, J=7.5, 2), 1.80–1.55 (m, 4).

reactant | 4-(4-Methoxy-butyl)-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC=CC(=C1)CCCCOC | C12H17NO3
reactant | water | 0.5 mL | O | H2O
reactant | lithium hydroxide monohydrate | 0.72 mmol, 30.2 mg, 1.5 equiv | O.[OH-].[Li+]
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | methanol | 20 mL | CO | CH4O
product | 4-(4-Methoxy-butyl)-pyridine-2-carboxylic acid | 63.4 mg, 63% | COCCCCC1=CC(=NC=C1)C(=O)O | C11H15NO3
